US08119692B2
(S)-methyl 6-(4-fluoro-3-methylbenzylamino)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoate (Intermediate G7)
To a solution of (S)-methyl 2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-6-oxohexanoate (40 mg, 0.13 mmol) in 2 mL DCE was added 4-Fluoro-3-methyl-benzylamine (21 mg, 0.15 mmol) followed by NaBH(OAc)3 (39.9 mg, 1.4 mmol) and AcOH (9.3 mg, 9 μL, 0.15 mmol) at room temperature. The mixture was stirred for 8 h at the room temperature. The reaction was quenched by pouring into 10 mL 5% aqueous NaOH and diluted with ethyl acetate. The mixture was extracted with more ethyl acetate (3×20 mL) and the combined organic layers washed with brine (2×10 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the crude product used directly in the next step without further purification.

reactant | (S)-methyl 2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-6-oxohexanoate | 0.13 mmol, 40 mg | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CCCC=O)OC | C16H21FO4
reactant | 4-Fluoro-3-methyl-benzylamine | 0.15 mmol, 21 mg | FC1=C(C=C(CN)C=C1)C | C8H10FN
reactant | NaBH(OAc)3 | 1.4 mmol, 39.9 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 0.15 mmol, 9 μL, 9.3 mg | CC(=O)O | C2H4O2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | (S)-methyl 6-(4-fluoro-3-methylbenzylamino)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hexanoate | FC1=C(C=C(CNCCCC[C@H](C(=O)OC)C[C@@H](OC)C2=CC=C(C=C2)F)C=C1)C | C24H31F2NO3
